US04804773
A solution of 50 mg (0.13 mmol) of 9,10-dihydro-9-oxo-10-triethylsiloxy-10-trifluoromethylanthracene in 0.5 mL of absolute ethanol was treated successively with 42 mg (0.65 mmol) of zinc dust and 0.5 mL of a solution of 90% acetic acid - 20% water. The mixture was heated to reflux in a 110° C. oil bath for 2 hours, allowed to cool to room temperature, and poured into 10 mL of water. The resulting aqueous mixture was extracted with three 5 mL portions of diethyl ether. Combination, drying, and concentration of the ether layers gave a residue which was purified by PTLC (one 1 mm silica gel plate eluted with 50% dichloromethane 50% petroleum ether) to give 34 mg of 87% pure (58% yield) 9,10-dihydro-9-hydroxy-10-triethysiloxy-10-trifluoromethylanthracene as a white solid: mass spectrum (70 eV) m/z (relative intensity) 363 (8, M-C2H5), 211 (100), 183 (21), 77 (25); TMS derivative 466 (M+), 368 (27), 246 (24), 196 (22), 193 (90), 165 (21), 105 (40), 87 (28), 77 (47), 73 (100), 59 (20), 45 (21).

reactant | 9,10-dihydro-9-oxo-10-triethylsiloxy-10-trifluoromethylanthracene | 0.13 mmol, 50 mg | O=C1C2=CC=CC=C2C(C=2C=CC=CC12)(C(F)(F)F)O[Si](CC)(CC)CC | C21H23F3O2Si
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | water | 10 mL | O | H2O
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
catalyst | zinc | 0.65 mmol, 42 mg | [Zn] | Zn
product | 9,10-dihydro-9-hydroxy-10-triethysiloxy-10-trifluoromethylanthracene | 58% yield | OC1C2=CC=CC=C2C(C=2C=CC=CC12)(C(F)(F)F)O[Si](CC)(CC)CC | C21H25F3O2Si
